US07439371B2
N-Methyl-3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzamide
A small screw cap test tube was charged with 3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-N-methyl-benzamide (as prepared below; 20 mg, 0.062 mmol) and THF (1 mL). To the resulting solution was added 4-(4-methyl-piperazin-1-yl)-phenylamine (12 mg, 0.062 mmol), and the mixture was stirred for 24 h at 68° C. Subsequently, the reaction mixture was cooled to room temperature and then concentrated in vacuo. Purification of the crude residue via flash silica gel chromatography (10% MeOH in CHCl3) afforded the title compound in 39% yield (12 mg, 0.024 mmol).

reactant | 3-(3-hydroxymethylene-2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-N-methyl-benzamide | 0.062 mmol, 20 mg | OC=C1C(NC2=CC(=CC=C12)SC=1C=C(C(=O)NC)C=CC1)=O | C17H14N2O3S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.062 mmol, 12 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-Methyl-3-(3-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzamide | 39% yield | CNC(C1=CC(=CC=C1)SC1=CC=C2C(C(NC2=C1)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C)=O | C28H29N5O2S
